US07595323B2
4-Fluoro-3-nitrophenyl-guanidine nitrate (40 g, 0.153 mol) and 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one (27 g, 0.153 mol) were reacted according to the same procedure as Step 1.3 of Preparation 1 to give N-(4-fluoro-3-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine (30 g).

reactant | 4-Fluoro-3-nitrophenyl-guanidine nitrate | 0.153 mol, 40 g | [N+](=O)(O)[O-].FC1=C(C=C(C=C1)NC(=N)N)[N+](=O)[O-]
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | 0.153 mol, 27 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
product | N-(4-fluoro-3-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine | 30 g | FC1=C(C=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)[N+](=O)[O-] | C15H10FN5O2
